* source EEC-HW03-Q2
R_R1         N00175 N00236  50  
G_G1         0 N00236 N00175 0 0.01
R_R2         N00175 N00209  20  
I_I1         0 N00175 DC 5  
R_R3         N00209 N00236  30  
E_E1         N00209 0 N00175 0 0.4
