* source EEC-HW03-Q4
G_G1         N00006 N00747 N00775 N00747 1.5
V_V1         N00693 0 6
R_R4         N00006 N01714  1  
R_R5         N00006 N00693  4  
X_H1    N01714 0 N00747 N00693 SCHEMATIC1_H1 
R_R6         N00747 N00775  1  
R_R7         N00006 N00775  2  
I_I1         N00775 0 DC 6  

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 4
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
