* source EEC - PROJECT - Q1 - EQ1
E_U1         N00168 0 VALUE {LIMIT(V(0,N00057)*1E6,-15V,+15V)}
E_U3         N00844 0 VALUE {LIMIT(V(0,N00739)*1E6,-15V,+15V)}
E_U4         N00950 0 VALUE {LIMIT(V(0,N00948)*1E6,-15V,+15V)}
R_R8         N00844 N00948  8k  
R_R5         N00272 N00948  1k  
C_C2         N00274 N00272  1m  
R_R4         N00739 N00844  4k  
R_R1         N00950 N00057  1k  
R_R6         N00948 N00950  8k  
E_U2         N00272 0 VALUE {LIMIT(V(0,N00274)*1E6,-15V,+15V)}
C_C1         N00057 N00168  1m  
R_R2         N00168 N00274  1k  
V_V1         N01273 0  
+SIN 0 -1 0.318Hz 0 0 295
R_R3         N00168 N00739  1k  
R_R7         N01273 N00739  4k  
