* source EEC - PROJECT - Q1 - EQ2
E_U1         N00113 0 VALUE {LIMIT(V(0,N00077)*1E6,-15V,+15V)}
R_R4         N00572 N00803  2k  
R_R3         N00511 N00572  1k  
C_C1         N00077 N00113  1m  
R_R6         N00803 N00213  5k  
E_U2         N00572 0 VALUE {LIMIT(V(0,N00511)*1E6,-15V,+15V)}
R_R2         N00113 N00511  1k  
R_R1         N00213 N00077  1k  
E_U3         N00213 0 VALUE {LIMIT(V(0,N00803)*1E6,-15V,+15V)}
V_V3         N01290 0  
+PULSE 0 -1 0 0 0 10 20
R_R5         N00803 N01290  10k  
