* source SOAL3
V_V1         N00621 N00797  
+SIN 0 5 3.18309 0 0 12
L_L1         N00659 N00797  0.1  
L_L2         0 N00797  0.15  
C_C1         N00659 0  0.015  
I_I2         N00797 0 DC 0Adc AC 0Aac
+SIN 0 2 3.18309 0 0 45
R_R1         N00621 N00659  1  
R_R2         N00797 0  2  
