* source SOAL2_LEFT
V_V1         N03270 0 1
R_R1         N03008 N03042  6  
G_G1         N03270 N03042 N03008 N03042 0.5
X_H1    N03528 0 N03008 0 SCHEMATIC1_H1 
R_R3         N03042 N03270  2  
R_R2         N03528 N03042  10  

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 4
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
