* source SOAL2_RIGHT
R_R1         N00321 N00183  3  
R_R2         N00294 N00321  2  
R_R3         N00719 N00294  1  
I_I1         N00719 N00321 DC 5  
R_R4         0 N00267  3  
R_R5         N00267 N00580  2  
X_H1    N00183 N00580 N00294 N00267 SCHEMATIC1_H1 
G_G1         N00719 0 N00321 N00294 4

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 2
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
